US04649146
To a mixture of 1-piperonylpiperazine (2.72 g) and phosphorous trichloride (0.49 ml) in pyridine (20 ml) was added 2-amino-5-(4-pyridyl)-4-thiazolecarboxylic acid (1.24 g) and the mixture was stirred at 80° C. for 3 hours. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of ethyl acetate and water. The resultant mixture was adjusted to pH 8.0 with saturated aqueous potassium carbonate. The organic extract was dried over magnesium sulfate. The solvent was evaporated in vacuo to give a crystalline residue, which was recrystallized from ethyl acetate to afford 2-amino-5-(4-pyridyl)-4-[(4-piperonyl-1-piperazinyl)carbonyl]thiazole (0.45 g). mp 216°-217° C.

reactant | 1-piperonylpiperazine | 2.72 g | C(C1=CC=2OCOC2C=C1)N1CCNCC1 | C12H16N2O2
reactant | phosphorous trichloride | 0.49 ml | P(Cl)(Cl)Cl | Cl3P
reactant | 2-amino-5-(4-pyridyl)-4-thiazolecarboxylic acid | 1.24 g | NC=1SC(=C(N1)C(=O)O)C1=CC=NC=C1 | C9H7N3O2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-amino-5-(4-pyridyl)-4-[(4-piperonyl-1-piperazinyl)carbonyl]thiazole | 0.45 g | NC=1SC(=C(N1)C(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1)C1=CC=NC=C1 | C21H21N5O3S
